US08633212B2
To a solution of TMEDA (32.2 g, 0.278 mol) in dry THF (150 mL) was added s-BuLi (1.3 M, 0.278 mol, 214 mL) at −78° C. The mixture was stirred at this temperature for 0.5 hour, and then a solution of 3,4-difluorobenzoic acid (20 g, 0.127 mol) in THF (100 mL) was added dropwise. After stirring for 1 hour, CuBr.DMS (3.9 g, 0.019 mol, 15% mol) was added, followed by 3-bromoprop-1-ene (46 g, 0.38 mol) in 50 mL of THF. The reaction mixture was allowed to warm to room temperature and was quenched with water. The aqueous layer was washed with Et2O, and acidified with 4 N HCl. The mixture was extracted with Et2O. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to give 2-allyl-3,4-difluorobenzoic acid (22 g, 55%). 1H NMR (CDCl3): 3.91 (d, 2H), 5.06 (m, 2H), 6.01 (m, 1H), 7.12 (m, 1H), 7.90 (m, 1H).

reactant | TMEDA | 0.278 mol, 32.2 g | CN(C)CCN(C)C | C6H16N2
reactant | s-BuLi | 0.278 mol, 1.3 M, 214 mL | [Li]C(C)CC
reactant | 3,4-difluorobenzoic acid | 0.127 mol, 20 g | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
reactant | DMS | 0.019 mol, 3.9 g | CSC | C2H6S
reactant | 3-bromoprop-1-ene | 0.38 mol, 46 g | BrCC=C | C3H5Br
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-allyl-3,4-difluorobenzoic acid | 22 g, 55% | C(C=C)C1=C(C(=O)O)C=CC(=C1F)F | C10H8F2O2
